US04111936
Methyl 3-[2-(3-t-butylamino-2-hydroxypropoxy)-5-methylbenzoyl]propionate was cyclised with hydrazine hydrate in a similar manner to the procedure described in Example 2 (ii) to give 6-[2-(3-t-butylamino-2-hydroxypropoxy)-5-methylphenyl]-4,5-dihydro-3(2H)-pyridazinone, m.p. 126°-127.5°. The hydrochloride had m.p. 206.5°-209.5°.

reactant | Methyl 3-[2-(3-t-butylamino-2-hydroxypropoxy)-5-methylbenzoyl]propionate | C(C)(C)(C)NCC(COC1=C(C(=O)CCC(=O)OC)C=C(C=C1)C)O | C19H29NO5
reactant | hydrazine hydrate | O.NN
product | 6-[2-(3-t-butylamino-2-hydroxypropoxy)-5-methylphenyl]-4,5-dihydro-3(2H)-pyridazinone | C(C)(C)(C)NCC(COC1=C(C=C(C=C1)C)C=1CCC(NN1)=O)O | C18H27N3O3
